### PR TITLE
[Merged by Bors] - feat: perfect subgroups

### PR DESCRIPTION
**Pull request by adomani**
A group `G` is perfect if it equals its commutator subgroup, that is `⁅G, G⁆ = G`.

Co-authored-by: Inna Capdeboscq <inna.capdeboscq@orange.fr>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/IsPerfect.lean [hunk 1]
```diff
@@ -0,0 +1,133 @@
...
+* `IsPerfect.map_surjective`: The image of a perfect group under a surjective monoid homomorphism
+  is perfect.
+
+## Implementation Notes
+
+The definition of `IsPerfect` takes a *sub*group `H` of `G`, instead of the whole group.
+Hence, the expected spelling for the whole group being perfect is `(⊤ : Subgroup G).IsPerfect`.
+
+This definition makes it easier to work with perfect subgroups, which are often encountered
+in the informal setting.
```
Comment (tb65536) [inline Mathlib/GroupTheory/IsPerfect.lean]: I wonder, what specifically is easier here? Because you could always define perfect for arbitrary groups, but have lemmas that apply specifically to the case of subgroups? (e.g., lemmas like `IsPerfect.map` would only apply to the case of perfect subgroups).

Comment (adomani) [reply Mathlib/GroupTheory/IsPerfect.lean]: Here is what tends to make things slightly messy with taking as input a group.

In what I have been formalising recently, I often consider a single fixed group, and study various "internal" subgroups that are all perfect/normal/subnormal or whatever.

With the subgroup definition, these properties are all applied to terms in the same, fixed type `Subgroup G`.  If you use the alternative, defining these properties for the *type*, then all these properties suddenly are defined for terms of different types, since there is an implicit subtype for each subgroup.

Of course, you can navigate away by playing around with `map`s, but it is more convenient if you do not need to do it.

As soon as you want to relate subgroups of *different* groups, though, with either approach, you have to go through the extra hoops.

So, in my experience, working with properties defined on `Subgroup G` has the potential of streamlining some arguments in a fairly common use-case.

Comment (tb65536) [reply Mathlib/GroupTheory/IsPerfect.lean]: But what specifically is painful about carrying around this implicit subtype? If you state the lemmas you want in terms of Subgroups, then do you need any `map`s?

Comment (adomani) [reply Mathlib/GroupTheory/IsPerfect.lean]: If you look at `mem_comm_iff`, you get that being perfect is equivalent to a "pointwise" property.  With the Subtype approach, the element `g` is an element of the subtype, not of the original group.  So, if you then want to use the fact that your perfect group normalizes something else, you have to extract `g` as an element of the ambient group, instead of the subtype.

I know that you can do this, but it gets annoying and it also means that you often have to convert to element-wise descriptions, because the rewrites do not work.

Comment (tb65536) [reply Mathlib/GroupTheory/IsPerfect.lean]: Could you add a separate `Subgroup.Perfect.mem_comm_iff` lemma that says what you want for Subgroups?

Comment (adomani) [reply Mathlib/GroupTheory/IsPerfect.lean]: I tried converting this to a definition on `G` itself, rather than on a subgroup, but it is becoming more and more annoying to prove the result that the image of a perfect group is a perfect group.  There are "hidden" coercions to subtypes of subgroups that seem to make the situation worse.

Here is a concrete example of a sorry that I am having a hard time filling in:
```lean
/-
Copyright (c) 2026 Damiano Testa. All rights reserved.
Released under Apache 2.0 license as described in the file LICENSE.
Authors: Inna Capdeboscq, Damiano Testa
-/
module

public import Mathlib.GroupTheory.Nilpotent

/-!
# Perfect groups

A group `G` is perfect if it equals its commutator subgroup, that is `⁅G, G⁆ = G`.

Among the basic results, we show that
* a nontrivial perfect group is not solvable (`IsPerfect.not_isSolvable`);
* an abelian solvable group is trivial (`IsPerfect.subsingleton_of_isMulCommutative`).

## Main Definition

* `IsPerfect`: a subgroup `H` of a group `G` is *perfect* if it equals its own commutator,
  that is `⁅H, H⁆ = H`.

## Main Theorems

* `IsPerfect.map`: The image of a perfect subgroup under a monoid homomorphism is perfect.
* `IsPerfect.instQuotient`: The quotient of a perfect group by a normal subgroup is perfect.
* `IsPerfect.map_surjective`: The image of a perfect group under a surjective monoid homomorphism
  is perfect.

## Implementation Notes

The definition of `IsPerfect` takes a *sub*group `H` of `G`, instead of the whole group.
Hence, the expected spelling for the whole group being perfect is `(⊤ : Subgroup G).IsPerfect`.

This definition makes it easier to work with perfect subgroups, which are often encountered
in the informal setting.

For instance, a *quasi-simple* subgroup of a group is a perfect subgroup whose quotient by the
centre is simple.

Such groups play a fundamental role in the classification of finite simple groups.
-/

@[expose] public section

namespace Group
open Subgroup

variable {G} [Group G] {H K : Subgroup G}

variable (G) in
/-- A group `G` is perfect if `G` equals its commutator subgroup `⁅G, G⁆`. -/
class IsPerfect where
  /-- The commutator of the group `G` with itself is the whole group `G`. -/
  commutator_eq_top : ⁅(⊤ : Subgroup G), ⊤⁆ = (⊤ : Subgroup G)

attribute [simp] IsPerfect.commutator_eq_top

namespace IsPerfect

lemma mem_comm [hP : IsPerfect G] {g : G} : g ∈ ⁅(⊤ : Subgroup G), (⊤ : Subgroup G)⁆ := by
  simp

/-- The trivial subgroup `⊥` is always perfect. -/
instance instIsPerfectBot : IsPerfect (⊥ : Subgroup G) where
  commutator_eq_top := of_decide_eq_true rfl

/--
If a group `G` is perfect, then also viewing `G` as the top subgroup of itself
it is a perfect group.
-/
instance instIsPerfectTop [hC : IsPerfect G] : IsPerfect (⊤ : Subgroup G) where
  commutator_eq_top := by
    ext ⟨h, hh⟩
    rw [← hC.commutator_eq_top, ← map_subtype_commutator] at hh
    aesop

/--
If a group `G` is perfect, when viewed as the top subgroup of `G`, then also `G` itself is perfect.
-/
-- Should *not* be an instance!
lemma instIsPerfectTop' [hC : IsPerfect (⊤ : Subgroup G)] : IsPerfect G where
  commutator_eq_top := by
    apply le_antisymm (commutator_le_self (⊤ : Subgroup G))
    intro h hh
    rw [← map_subtype_commutator, _root_.commutator_def]
    simp [*]

lemma not_isSolvable (G) [Group G] [Nontrivial G] [IsPerfect G] :
    ¬ IsSolvable G := by
  intro h
  have comm_lt := IsSolvable.commutator_lt_of_ne_bot (bot_ne_top (α := Subgroup G)).symm
  grind only [commutator_eq_top]

lemma not_isNilpotent (G) [Group G] [Nontrivial G] [IsPerfect G] :
    ¬ IsNilpotent G :=
  fun _ ↦ (not_isSolvable G) IsNilpotent.to_isSolvable

lemma not_isMulCommutative (G) [Group G] [Nontrivial G] [IsPerfect G] :
    ¬ IsMulCommutative G :=
  fun _ ↦ (not_isSolvable G) CommGroup.isSolvable

instance subsingleton_of_isMulCommutative
    [hG : IsPerfect G] [h_comm : IsMulCommutative G] : Subsingleton G := by
  by_contra! h_not_subsingleton
  exact not_isMulCommutative G h_comm

/-- The image of a perfect subgroup under a homomorphism is perfect. -/
protected
lemma map {G'} [Group G'] [hP : IsPerfect G] (f : G →* G') :
    IsPerfect (map f ⊤) where
  commutator_eq_top := by
    sorry
```

Comment (tb65536) [reply Mathlib/GroupTheory/IsPerfect.lean]: How about something like this?
```
lemma Group.isPerfect_def {G : Type*} [Group G] :
    IsPerfect G ↔ commutator G = ⊤ :=
  ⟨fun h ↦ h.commutator_eq_top, fun h ↦ ⟨h⟩⟩

lemma Subgroup.isPerfect_iff {G : Type*} [Group G] {H : Subgroup G} :
    IsPerfect H ↔ ⁅H, H⁆ = H := by
  rw [Group.isPerfect_def, ← (map_injective H.subtype_injective).eq_iff,
    map_subtype_commutator, ← MonoidHom.range_eq_map, range_subtype]

lemma map {G'} [Group G'] [hP : IsPerfect G] (f : G →* G') :
    IsPerfect (map f ⊤) := by
  rw [Subgroup.isPerfect_iff, ← map_commutator, hP.commutator_eq_top]
```

Comment (tb65536) [reply Mathlib/GroupTheory/IsPerfect.lean]: (Basically, I think if there's pain with working with perfect subgroups, the solution is to just make the necessary API for perfect subgroups, in this case `Subgroup.isPerfect_iff`).

Comment (adomani) [reply Mathlib/GroupTheory/IsPerfect.lean]: Ok, thanks!

I still find that the subgroup version would require less API to work smoothly, but I have now converted to taking a `Group` as an input, instead of a `Subgroup`.

File: Mathlib/GroupTheory/IsPerfect.lean [hunk 2]
```diff
@@ -0,0 +1,137 @@
...
+lemma isPerfect_def : IsPerfect G ↔ commutator G = ⊤ :=
+  ⟨fun h ↦ h.commutator_eq_top, fun h ↦ ⟨h⟩⟩
+
+lemma _root_.Subgroup.isPerfect_iff : IsPerfect H ↔ ⁅H, H⁆ = H := by
+  rw [Group.isPerfect_def, ← (map_injective H.subtype_injective).eq_iff,
+    map_subtype_commutator, ← MonoidHom.range_eq_map, range_subtype]
+
+namespace IsPerfect
+
+lemma mem_comm [hP : IsPerfect G] {g : G} : g ∈ ⁅(⊤ : Subgroup G), (⊤ : Subgroup G)⁆ := by
```
Comment (tb65536) [inline Mathlib/GroupTheory/IsPerfect.lean]: (otherwise this sounds like a `comm` lemma for `mem`)
```suggestion
lemma mem_commutator [hP : IsPerfect G] {g : G} : g ∈ ⁅(⊤ : Subgroup G), (⊤ : Subgroup G)⁆ := by
```

File: Mathlib/GroupTheory/IsPerfect.lean [hunk 3]
```diff
@@ -0,0 +1,137 @@
...
+namespace Group
+open Subgroup
+
+variable {G} [Group G] {H K : Subgroup G}
+
+variable (G) in
+/-- A group `G` is perfect if `G` equals its commutator subgroup `⁅G, G⁆`. -/
+class IsPerfect where
+  /-- The commutator of the group `G` with itself is the whole group `G`. -/
+  commutator_eq_top : ⁅(⊤ : Subgroup G), ⊤⁆ = (⊤ : Subgroup G)
```
Comment (tb65536) [inline Mathlib/GroupTheory/IsPerfect.lean]: Is it worth spelling this with `commutator G` here, seeing as we have it?

File: Mathlib/GroupTheory/IsPerfect.lean [hunk 4]
```diff
@@ -0,0 +1,137 @@
...
+    map_subtype_commutator, ← MonoidHom.range_eq_map, range_subtype]
+
+namespace IsPerfect
+
+lemma mem_comm [hP : IsPerfect G] {g : G} : g ∈ ⁅(⊤ : Subgroup G), (⊤ : Subgroup G)⁆ := by
+  simp
+
+/-- The trivial subgroup `⊥` is always perfect. -/
+instance instIsPerfectBot : IsPerfect (⊥ : Subgroup G) where
+  commutator_eq_top := of_decide_eq_true rfl
```
Comment (tb65536) [inline Mathlib/GroupTheory/IsPerfect.lean]: This is more general:
```suggestion
instance [Subsingleton G] : IsPerfect G where
  commutator_eq_top := Subsingleton.elim _ _
```

File: Mathlib/GroupTheory/IsPerfect.lean [hunk 5]
```diff
@@ -0,0 +1,137 @@
...
+/--
+If a group `G` is perfect, when viewed as the top subgroup of `G`, then also `G` itself is perfect.
+-/
+-- Should *not* be an instance!
+lemma instIsPerfectTop' [hC : IsPerfect (⊤ : Subgroup G)] : IsPerfect G where
+  commutator_eq_top := by
+    apply le_antisymm (commutator_le_self (⊤ : Subgroup G))
+    intro h hh
+    rw [← map_subtype_commutator, _root_.commutator_def]
+    simp [*]
```
Comment (tb65536) [inline Mathlib/GroupTheory/IsPerfect.lean]: Maybe prove this first?
```suggestion
theorem top_iff : IsPerfect (⊤ : Subgroup G) ↔ IsPerfect G := by
  rw [isPerfect_def, isPerfect_def, ← (map_injective (⊤ : Subgroup G).subtype_injective).eq_iff,
    map_subtype_commutator, ← MonoidHom.range_eq_map, subtype_range, commutator_def]
```

File: Mathlib/GroupTheory/IsPerfect.lean [hunk 6]
```diff
@@ -0,0 +1,137 @@
...
+  have comm_lt := IsSolvable.commutator_lt_of_ne_bot (bot_ne_top (α := Subgroup G)).symm
+  grind only [commutator_eq_top]
+
+lemma not_isNilpotent (G) [Group G] [Nontrivial G] [IsPerfect G] :
+    ¬ IsNilpotent G :=
+  fun _ ↦ (not_isSolvable G) IsNilpotent.to_isSolvable
+
+lemma not_isMulCommutative (G) [Group G] [Nontrivial G] [IsPerfect G] :
+    ¬ IsMulCommutative G :=
+  fun _ ↦ (not_isSolvable G) CommGroup.isSolvable
```
Comment (tb65536) [inline Mathlib/GroupTheory/IsPerfect.lean]:
```suggestion
variable (G) in
lemma not_isSolvable [Nontrivial G] [IsPerfect G] : ¬ IsSolvable G := by
  intro h
  have comm_lt := IsSolvable.commutator_lt_of_ne_bot (bot_ne_top (α := Subgroup G)).symm
  grind only [commutator_eq_top]

variable (G) in
lemma not_isNilpotent [Nontrivial G] [IsPerfect G] : ¬ IsNilpotent G :=
  fun _ ↦ (not_isSolvable G) IsNilpotent.to_isSolvable

variable (G) in
lemma not_isMulCommutative [Nontrivial G] [IsPerfect G] : ¬ IsMulCommutative G :=
  fun _ ↦ (not_isSolvable G) CommGroup.isSolvable
```

File: Mathlib/GroupTheory/IsPerfect.lean [hunk 7]
```diff
@@ -0,0 +1,137 @@
...
+instance subsingleton_of_isMulCommutative
+    [hG : IsPerfect G] [h_comm : IsMulCommutative G] : Subsingleton G := by
+  by_contra! h_not_subsingleton
+  exact not_isMulCommutative G h_comm
+
+/-- The image of a perfect subgroup under a homomorphism is perfect. -/
+protected
+lemma map {G'} [Group G'] [hP : IsPerfect G] (f : G →* G') :
+    IsPerfect (map f ⊤) := by
+  rw [Subgroup.isPerfect_iff, ← map_commutator, hP.commutator_eq_top]
```
Comment (tb65536) [inline Mathlib/GroupTheory/IsPerfect.lean]:
```suggestion
lemma _root_.Subgroup.commutator_eq_self [hH : IsPerfect H] : ⁅H, H⁆ = H :=
  isPerfect_iff.mp hH

protected lemma map {G'} [Group G'] [IsPerfect H] (f : G →* G') : IsPerfect (H.map f) := by
  rw [isPerfect_iff, ← map_commutator, commutator_eq_self]

protected lemma range {G'} [Group G'] [IsPerfect G] (f : G →* G') : IsPerfect f.range := by
  rw [MonoidHom.range_eq_map]
  apply IsPerfect.map
```

File: Mathlib/GroupTheory/IsPerfect.lean [hunk 8]
```diff
@@ -0,0 +1,137 @@
...
+  instIsPerfectTop'
+
+/--
+This lemma is a version of `map`, except that the image is the simpler `⊤ : Subgroup G'`, but
+there is a surjectivity assumption on `f` instead.
+-/
+lemma map_surjective {G'} [Group G'] [IsPerfect G] {f : G →* G'} (hf : Function.Surjective f) :
+    IsPerfect G' :=
+  have : IsPerfect (map f ⊤) := IsPerfect.map f
+  instIsPerfectTop' (hC := by rwa [map_top_of_surjective f hf] at this)
```
Comment (tb65536) [inline Mathlib/GroupTheory/IsPerfect.lean]: I wouldn't bother with `IsPerfect (⊤ : Subgroup (G ⧸ H))` and would suggest going straight to surjectivity.
```suggestion
lemma ofSurjective {G'} [Group G'] [IsPerfect G] {f : G →* G'} (hf : Function.Surjective f) :
    IsPerfect G' := by
  rw [← top_iff, ← MonoidHom.range_eq_top_of_surjective f hf]
  exact IsPerfect.range f

instance [H.Normal] [IsPerfect G] : IsPerfect (G ⧸ H) :=
  ofSurjective (QuotientGroup.mk'_surjective H)
```

File: Mathlib/GroupTheory/IsPerfect.lean [hunk 9]
```diff
@@ -0,0 +1,137 @@
...
+* `IsPerfect.map_surjective`: The image of a perfect group under a surjective monoid homomorphism
+  is perfect.
+-/
+
+@[expose] public section
+
+namespace Group
+open Subgroup
+
+variable {G} [Group G] {H K : Subgroup G}
```
Comment (tb65536) [inline Mathlib/GroupTheory/IsPerfect.lean]: You use `G'` and `f` enough that I think it's worth making them variables.
```suggestion
variable {G G' : Type*} [Group G] {H K : Subgroup G} (f : G → G')
```

File: Mathlib/GroupTheory/IsPerfect.lean (hunk 2 above)
Comment (adomani) [reply Mathlib/GroupTheory/IsPerfect.lean]: Oh, thanks!  This was an oversight!

**Review by adomani — COMMENTED** [review]
Great suggestions, thanks!

File: Mathlib/GroupTheory/IsPerfect.lean [hunk 10]
```diff
@@ -0,0 +1,105 @@
...
+
+lemma _root_.Subgroup.commutator_eq_self [hH : IsPerfect H] : ⁅H, H⁆ = H :=
+  isPerfect_iff.mp hH
+
+protected lemma map [IsPerfect H] : IsPerfect (H.map f) := by
+  rw [isPerfect_iff, ← map_commutator, commutator_eq_self]
+
+protected lemma range [IsPerfect G] : IsPerfect f.range := by
+  rw [MonoidHom.range_eq_map]
+  have : IsPerfect (⊤ : Subgroup G) := top_iff.mpr inferInstance
```
Comment (tb65536) [inline Mathlib/GroupTheory/IsPerfect.lean]: I think it's alright to keep the instance for this that you had before (but now you can prove it directly from `top_iff`).

File: Mathlib/GroupTheory/IsPerfect.lean (hunk 3 above)
Comment (adomani) [reply Mathlib/GroupTheory/IsPerfect.lean]: I did.  I am not too familiar with the API, so I find it a little clunky.  I am also not so convinced about the dual spelling: using `commutator` in the definition, but then `⁅H, H⁆` in `isPerfect_iff`.  And adding a `map` in the `iff` lemma does not seem a good alternative either.

File: Mathlib/GroupTheory/IsPerfect.lean [hunk 11]
```diff
@@ -0,0 +1,107 @@
...
+public import Mathlib.GroupTheory.Nilpotent
+
+/-!
+# Perfect groups
+
+A group `G` is perfect if it equals its commutator subgroup, that is `⁅G, G⁆ = G`.
+
+Among the basic results, we show that
+* a nontrivial perfect group is not solvable (`IsPerfect.not_isSolvable`);
+* an abelian solvable group is trivial (`IsPerfect.subsingleton_of_isMulCommutative`).
```
Comment (tb65536) [inline Mathlib/GroupTheory/IsPerfect.lean]:
```suggestion
* an abelian perfect group is trivial (`IsPerfect.subsingleton_of_isMulCommutative`).
```

File: Mathlib/GroupTheory/IsPerfect.lean [hunk 12]
```diff
@@ -0,0 +1,107 @@
...
+lemma _root_.Subgroup.isPerfect_iff : IsPerfect H ↔ ⁅H, H⁆ = H := by
+  rw [Group.isPerfect_def, ← (map_injective H.subtype_injective).eq_iff,
+    map_subtype_commutator, ← MonoidHom.range_eq_map, range_subtype]
+
+namespace IsPerfect
+
+lemma mem_commutator [hP : IsPerfect G] {g : G} : g ∈ commutator G := by
+  simp
+
+/-- The trivial subgroup `⊥` is always perfect. -/
```
Comment (tb65536) [inline Mathlib/GroupTheory/IsPerfect.lean]: This docstring should be about trivial groups, not trivial subgroups.

File: Mathlib/GroupTheory/IsPerfect.lean [hunk 13]
```diff
@@ -0,0 +1,107 @@
...
+
+theorem top_iff : IsPerfect (⊤ : Subgroup G) ↔ IsPerfect G := by
+  rw [isPerfect_def, isPerfect_def, ← (map_injective (⊤ : Subgroup G).subtype_injective).eq_iff,
+    map_subtype_commutator, ← MonoidHom.range_eq_map, subtype_range, commutator_def]
+
+variable (G) in
+lemma not_isSolvable [Nontrivial G] [IsPerfect G] : ¬ IsSolvable G := by
+  intro h
+  have comm_lt := IsSolvable.commutator_lt_of_ne_bot (bot_ne_top (α := Subgroup G)).symm
+  grind only [commutator_eq_top (G := G), _root_.commutator_def]
```
Comment (tb65536) [inline Mathlib/GroupTheory/IsPerfect.lean]:
```suggestion
  exact (h.commutator_lt_top_of_nontrivial G).ne commutator_eq_top
```

File: Mathlib/GroupTheory/IsPerfect.lean [hunk 14]
```diff
@@ -0,0 +1,107 @@
...
+lemma not_isMulCommutative [Nontrivial G] [IsPerfect G] : ¬ IsMulCommutative G :=
+  fun _ ↦ (not_isSolvable G) CommGroup.isSolvable
+
+instance subsingleton_of_isMulCommutative
+    [hG : IsPerfect G] [h_comm : IsMulCommutative G] : Subsingleton G := by
+  by_contra! h_not_subsingleton
+  exact not_isMulCommutative G h_comm
+
+lemma _root_.Subgroup.commutator_eq_self [hH : IsPerfect H] : ⁅H, H⁆ = H :=
+  isPerfect_iff.mp hH
```
Comment (tb65536) [inline Mathlib/GroupTheory/IsPerfect.lean]: Personally I would suggest moving this up to just below `Subgroup.isPerfect_iff`.

File: Mathlib/GroupTheory/IsPerfect.lean [hunk 15]
```diff
@@ -0,0 +1,107 @@
...
+
+protected lemma map [IsPerfect H] : IsPerfect (H.map f) := by
+  rw [isPerfect_iff, ← map_commutator, commutator_eq_self]
+
+instance [IsPerfect G] : IsPerfect (⊤ : Subgroup G) :=
+  top_iff.mpr inferInstance
```
Comment (tb65536) [inline Mathlib/GroupTheory/IsPerfect.lean]: And this up to just below `top_iff` (for maintainability).

**Review by tb65536 — APPROVED** [review]

File: Mathlib/GroupTheory/IsPerfect.lean (hunk 12 above)
Comment (adomani) [reply Mathlib/GroupTheory/IsPerfect.lean]: Changed, thanks!

File: Mathlib/GroupTheory/IsPerfect.lean (hunk 14 above)
Comment (adomani) [reply Mathlib/GroupTheory/IsPerfect.lean]: Done!

File: Mathlib/GroupTheory/IsPerfect.lean (hunk 15 above)
Comment (adomani) [reply Mathlib/GroupTheory/IsPerfect.lean]: Done!

**Review by adomani — COMMENTED** [review]
Thanks!

I moved the lemmas/instances and fixed the docstrings.

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer merge
